US04410536
9-Propyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
This compound is formed analogously to that described in Example 15, from 2 g of 5-hydrazinobenzothiophene hydrochloride and 1.7 g of 1-propyl-4-piperidone. Melting point: 143°-144° C.

reactant | 5-hydrazinobenzothiophene hydrochloride | 2 g | Cl.N(N)C=1C=CC2=C(C=CS2)C1
reactant | 1-propyl-4-piperidone | 1.7 g | C(CC)N1CCC(CC1)=O | C8H15NO
product | 9-Propyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(CC)N1CC2=C(NC3=CC=C4C(=C23)C=CS4)CC1 | C16H18N2S
